US05688823
5-[4-{2-[3-(N-Methyl-N-phenylamino)-2-hydroxypropylamino]propoxy}benzyl]thiazolidine-2,4-dione (Compound No. 1-183)
A procedure similar to that described in Example 2 was repeated, except that 1.55 g of 3-(N-methyl-N-phenylamino)-2-hydroxypropylamine (prepared as described in Preparation 90), 1.6 g of 5-[4-(2-oxopropoxy)benzyl]-thiazolidine-2,4-dione, 0.4 g of sodium cyanoborohydride and 50 ml of anhydrous methanol were used, to give 1.39 g of the title compound, melting at 115° C. to 125° C.

reactant | 3-(N-methyl-N-phenylamino)-2-hydroxypropylamine | 1.55 g | CN(C1=CC=CC=C1)CC(CN)O | C10H16N2O
reactant | 5-[4-(2-oxopropoxy)benzyl]-thiazolidine-2,4-dione | 1.6 g | O=C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C13H13NO4S
reactant | sodium cyanoborohydride | 0.4 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-[4-{2-[3-(N-Methyl-N-phenylamino)-2-hydroxypropylamino]propoxy}benzyl]thiazolidine-2,4-dione | 1.39 g | CN(C1=CC=CC=C1)CC(CNC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C)O | C23H29N3O4S
